US05034417
A mixture of 4'-bromoacetyl-2'-(2,4-difluorophenylthio)methanesulfonanilide and thiourea (0.58 g) in methanol (15 ml) was refluxed for 1 hour, and then cooled. The precipitates were filtered, washed with ethanol and dried to give crystals of 4'-(2-amino-4-thiazolyl)-2'-(2,4-difluorophenylthio)methanesulfonanilide hydrobromide (1.9 g).

reactant | 4'-bromoacetyl-2'-(2,4-difluorophenylthio)methanesulfonanilide | BrCC(=O)C1=CC(=C(NS(=O)(=O)C)C=C1)SC1=C(C=C(C=C1)F)F | C15H12BrF2NO3S2
reactant | thiourea | 0.58 g | NC(=S)N | CH4N2S
solvent | methanol | 15 ml | CO | CH4O
product | 4'-(2-amino-4-thiazolyl)-2'-(2,4-difluorophenylthio)methanesulfonanilide hydrobromide | 1.9 g | Br.NC=1SC=C(N1)C1=CC(=C(NS(=O)(=O)C)C=C1)SC1=C(C=C(C=C1)F)F | InChI=1S/C16H13F2N3O2S3.BrH/c1-26(22,23)21-12-4-2-9(13-8-24-16(19)20-13)6-15(12)25-14-5-3-10(17)7-11(14)18;/h2-8,21H,1H3,(H2,19,20);1H
